US07625889B2
Step 2: N-[5-(1H-Benzotriazol-5-yl)-2-fluoro-benzyl]-N-(1-cyclopropyl-piperidin-4-yl)-4-fluoro-benzamide.
Trifluoroacetic acid (TFA, 1 mL) was added to a solution of N-(1-cyclopropyl-piperidin-4-yl)-4-fluoro-N-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-benzamide (14 mg, 0.019 mmol) in 1 mL of dichloromethane and the resulting mixture stirred at ambient temperature overnight and then the mixture was neutralized by careful addition of 1M sodium carbonate. The layers were separated, the aqueous phase was extracted with dichloromethane, and the combined organic phases were dried over magnesium sulfate, filtered, and the volatiles were removed in vacuo to leave the crude product. Chromatography (elution with methanol/dichloromethane) provided 9 mg of the title compound. LC/MS: Retention time, 2.22 min; (M+H)=488.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(1-cyclopropyl-piperidin-4-yl)-4-fluoro-N-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-benzamide | 0.019 mmol, 14 mg | C1(CC1)N1CCC(CC1)N(C(C1=CC=C(C=C1)F)=O)CC1=C(C=CC(=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F | C47H41F2N5O
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[5-(1H-Benzotriazol-5-yl)-2-fluoro-benzyl]-N-(1-cyclopropyl-piperidin-4-yl)-4-fluoro-benzamide | 9 mg | N1N=NC2=C1C=CC(=C2)C=2C=CC(=C(CN(C(C1=CC=C(C=C1)F)=O)C1CCN(CC1)C1CC1)C2)F | C28H27F2N5O
